US03985896
3-(3-Bromopropoxy)-7-oxo-7H-benzo[b]phenaleno[2,1-d]furan
Treatment of 3-acetyl-2-[4-(3-bromopropoxy)naphthyl]-benzofuran with sodium hypobromite followed by cyclization of the product with aluminum chloride as described above, gives the title compound.

reactant | 3-acetyl-2-[4-(3-bromopropoxy)naphthyl]-benzofuran | C(C)(=O)C1=C(OC2=C1C=CC=C2)C2=CC=C(C1=CC=CC=C21)OCCCBr | C23H19BrO3
reactant | sodium hypobromite | Br[O-].[Na+]
reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
product | 3-(3-Bromopropoxy)-7-oxo-7H-benzo[b]phenaleno[2,1-d]furan | BrCCCOC1=C2C=CC=C3C(C=4C5=C(OC4C(C=C1)=C32)C=CC=C5)=O | C22H15BrO3
